Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10]>>[C:6]([H:7])#[C:8][O:9][H:10].[H:1][C:2][O:3][C:4][H:5],3.90683516331
[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11],-4.89332730229
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.12921232433
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.28340370095
[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:8]([H:9])[H:10].[O:7]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])[H:10],-6.360667482899999
[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-4.206212613480002
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.31812285342
[H:1][C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-4.27710071038
[H:1][C:2]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.11474351621
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]=[O:2].[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-1.37516768604
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],4.434175497
[O:1]=[C:2]([C:3][H:4])[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4],1.07661853265
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],4.5360081218
[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.61517761068
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5],4.73475014902
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12],4.2354653093
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.39374206839
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2][C:5]([H:3])([H:4])[C:10]([H:11])([H:12])[H:13].[H:1][C:7]([C:6])([H:8])[H:9],9.06159679
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7],4.10899704628
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-1.29635493416
[C:1].[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.4323311725
[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.12249807543
[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.18490996856
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[H:1][C:2][O:3][C:4][H:5],6.66354946446
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[O:8],7.96631341954
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.59394416156
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1],4.82602827119
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[H:11].[H:7],4.90596814024
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.93323160909
[C:1]=[C:2]([H:3])[H:4].[C:5]([C:6]#[C:7])[O:8][H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])[O:8][H:9],-1.17155079956
